US06821984B2
1-(2-Chloro-4,6-dimethylphenyl)piperidine-2-thione (5.11 g), dimethyl carbonate (17.0 mL), sodium hydride (3.7 g of a 60% dispersion in mineral oil), and methanol (0.5 mL) were combined in 100 mL of dioxane and the mixture was stirred in a 120° C. oil bath for 4 h. After the reaction had cooled to room temperature, it was quenched by the addition of aqueous ammonium chloride, diluted with water and washed twice with ethyl acetate. After drying over magnesium sulfate, the ethyl acetate was concentrated and the residue chromatographed on silica gel using an acetone/hexane gradient to provide 5.00 g 1-(2-chloro-4,6-dimethylphenyl)-2-methylsulfanyl-1,4,5,6-tetrahydropyridine-3-carboxylic acid methyl ester, mp 85.3-87.6° C.

reactant | 1-(2-Chloro-4,6-dimethylphenyl)piperidine-2-thione | 5.11 g | ClC1=C(C(=CC(=C1)C)C)N1C(CCCC1)=S | C13H16ClNS
reactant | dimethyl carbonate | 17.0 mL | C(OC)(OC)=O | C3H6O3
reactant | sodium hydride | [H-].[Na+]
reactant | methanol | 0.5 mL | CO | CH4O
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 1-(2-chloro-4,6-dimethylphenyl)-2-methylsulfanyl-1,4,5,6-tetrahydropyridine-3-carboxylic acid methyl ester | 5.00 g | COC(=O)C1=C(N(CCC1)C1=C(C=C(C=C1C)C)Cl)SC | C16H20ClNO2S
